US04785107
6-[2-(3,5-di-tert-Butyl-4-hydroxyphenylpropionamido)ethylamino]-2-chloro-4-methylnicotinonitrile
18.7 g of 2,6-dichloro-4-methylnicotinonitrile and 32 g of 3,5-di-tert-butyl-4-hydroxyphenylpropionic acid 2-aminoethylamide are reacted with 10.1 g of triethylamine in 0.2 l of N-methylpyrrolidone at 50° C. for 8 hours, after which 1 l of water and 0.4 l of toluene are added, the toluene phase is separated off, dried and filtered over active carbon, and the filtrate is evaporated down. The residue is dissolved in 100 ml of hot ethanol, and 1 l of petroleum ether is slowly added to the solution. The mixture is cooled, and the precipitate is filtered off under suction and dried to give a product of melting point 162°-165° C.

reactant | 2,6-dichloro-4-methylnicotinonitrile | 18.7 g | ClC1=C(C#N)C(=CC(=N1)Cl)C | C7H4Cl2N2
reactant | 3,5-di-tert-butyl-4-hydroxyphenylpropionic acid 2-aminoethylamide | 32 g | NCCNC(C(C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C19H32N2O2
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | water | 1 l | O | H2O
reactant | N-methylpyrrolidone | 0.2 l | CN1C(CCC1)=O | C5H9NO
solvent | toluene | 0.4 l | C1(=CC=CC=C1)C | C7H8
product | 6-[2-(3,5-di-tert-Butyl-4-hydroxyphenylpropionamido)ethylamino]-2-chloro-4-methylnicotinonitrile | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NCCNC1=NC(=C(C#N)C(=C1)C)Cl | C26H35ClN4O2
